// Generated for: spectre
// Generated on: Oct  1 11:02:11 2021
// Design library name: MultiChannel_EMG_TestBench
// Design cell name: TCA_DSL_TB
// Design view name: schematic
simulator lang=spectre
global 0
parameters AMP_input=100u freq_input=500 VOS=0 Rint=16G
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: MultiChannel_EMG_TestBench
// Cell name: TCA_DSL_TB
// View name: schematic
M8 (net63 net22 net24 0) ne w=2u l=500n as=5.68e-13 ad=5.4e-13 \
        ps=2.70133e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(30) \
        par1=((1)*(30)) xf_subext=0
M5 (net62 net31 net29 0) ne w=2u l=500n as=5.68e-13 ad=5.4e-13 \
        ps=2.70133e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(30) \
        par1=((1)*(30)) xf_subext=0
M31 (net31 net32 net28 0) ne w=10u l=20u as=4.8e-12 ad=4.8e-12 \
        ps=2.096e-05 pd=2.096e-05 nrs=0.027 nrd=0.027 m=(1)*(1) \
        par1=((1)*(1)) xf_subext=0
M29 (net22 net20 net28 0) ne w=10u l=20u as=4.8e-12 ad=4.8e-12 \
        ps=2.096e-05 pd=2.096e-05 nrs=0.027 nrd=0.027 m=(1)*(1) \
        par1=((1)*(1)) xf_subext=0
M20 (IBIAS2 IBIAS2 IBIAS 0) ne w=375.00n l=15.0u as=1.09125e-13 \
        ad=1.0125e-13 ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 \
        m=(1)*(20) par1=((1)*(20)) xf_subext=0
M21 (IBIAS IBIAS 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
M15 (net14 IBIAS 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
M2 (net10 IBIAS 0 0) ne w=375.00n l=15.0u as=1.09125e-13 ad=1.0125e-13 \
        ps=9.945e-07 pd=9.15e-07 nrs=0.72 nrd=0.72 m=(1)*(20) \
        par1=((1)*(20)) xf_subext=0
V5 (net059 VCM) vsource dc=VOS type=dc
V2 (VCM 0) vsource dc=900m type=dc
V4 (VDDA 0) vsource dc=1.8 type=dc
M51 (net22 net27 VDDA VDDA) pe w=2u l=40u as=9.6e-13 ad=9.6e-13 \
        ps=4.96e-06 pd=4.96e-06 nrs=0.135 nrd=0.135 m=(1)*(1) \
        par1=((1)*(1))
M53 (net27 net27 VDDA VDDA) pe w=2u l=40u as=9.6e-13 ad=9.6e-13 \
        ps=4.96e-06 pd=4.96e-06 nrs=0.135 nrd=0.135 m=(1)*(1) \
        par1=((1)*(1))
M52 (net31 net27 VDDA VDDA) pe w=2u l=40u as=9.6e-13 ad=9.6e-13 \
        ps=4.96e-06 pd=4.96e-06 nrs=0.135 nrd=0.135 m=(1)*(1) \
        par1=((1)*(1))
M9 (DSLoutn DSLoutn VDDA VDDA) pe w=4u l=10u as=1.92e-12 ad=1.08e-12 \
        ps=8.96e-06 pd=4.54e-06 nrs=0.0675 nrd=0.0675 m=(1)*(2) \
        par1=((1)*(2))
M4 (DSLoutp DSLoutp VDDA VDDA) pe w=4u l=10u as=1.92e-12 ad=1.08e-12 \
        ps=8.96e-06 pd=4.54e-06 nrs=0.0675 nrd=0.0675 m=(1)*(2) \
        par1=((1)*(2))
M54 (net13 DSLoutn VDDA VDDA) pe w=4u l=10u as=1.92e-12 ad=1.08e-12 \
        ps=8.96e-06 pd=4.54e-06 nrs=0.0675 nrd=0.0675 m=(3)*(2) \
        par1=((3)*(2))
M55 (net12 DSLoutp VDDA VDDA) pe w=4u l=10u as=1.92e-12 ad=1.08e-12 \
        ps=8.96e-06 pd=4.54e-06 nrs=0.0675 nrd=0.0675 m=(3)*(2) \
        par1=((3)*(2))
M0 (net12 outp VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M7 (outp outp VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M13 (net13 outn VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 \
        ps=2.782e-06 pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) \
        par1=((1)*(20))
M12 (outn outn VDDA VDDA) pe w=2u l=2u as=5.82e-13 ad=5.4e-13 ps=2.782e-06 \
        pd=2.54e-06 nrs=0.135 nrd=0.135 m=(1)*(20) par1=((1)*(20))
M1 (net10 Vinp net12 net12) pe w=10u l=500n as=2.91e-12 ad=2.7e-12 \
        ps=1.1582e-05 pd=1.054e-05 nrs=0.027 nrd=0.027 m=(1)*(20) \
        par1=((1)*(20))
M3 (net14 Vinn net13 net13) pe w=10u l=500n as=2.91e-12 ad=2.7e-12 \
        ps=1.1582e-05 pd=1.054e-05 nrs=0.027 nrd=0.027 m=(1)*(20) \
        par1=((1)*(20))
M6 (0 net10 net40 net40) pe w=8u l=180.0n as=2.496e-12 ad=2.16e-12 \
        ps=1.0224e-05 pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(10) \
        par1=((1)*(10))
M10 (0 net14 net17 net17) pe w=8u l=180.0n as=2.496e-12 ad=2.16e-12 \
        ps=1.0224e-05 pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(10) \
        par1=((1)*(10))
V1 (VCM Vinn) vsource mag=500.0m type=sine ampl=AMP_input freq=freq_input
V0 (Vinp net059) vsource mag=500.0m type=sine ampl=AMP_input \
        freq=freq_input
I1 (VDDA IBIAS2) isource dc=2u type=dc
IPRB2 (DSLoutp net63) iprobe
IPRB3 (DSLoutn net62) iprobe
IPRB1 (outp net40) iprobe
IPRB0 (outn net17) iprobe
R1 (net12 net13) rpp1k1 l=20.09u w=2u m=1 par1=(1)
I36 (net27 0) isource dc=50n type=sine
I7 (net29 0) isource dc=500n type=sine
I2 (net24 0) isource dc=500n type=sine
I30 (net28 0) isource dc=100n type=sine
R3 (net20 net22) resistor r=Rint
R2 (net31 net32) resistor r=Rint
R6 (net64 net29) resistor r=25K
R5 (net24 net64) resistor r=25K
R0 (net32 outn) resistor r=Rint/20
R10 (outp net20) resistor r=Rint/20
C9 (net31 net32) capacitor c=5p
C8 (net22 net20) capacitor c=10p
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
ac ac start=1m stop=100M dec=20 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save IPRB2:in IPRB1:in IPRB0:in M55:1 
saveOptions options save=allpub
